US05863946
Preparation of 2,3-dihydroxypropionaldehyde-O-[2-[(2,6-dichloro-3-methylphenyl)amino]phenymethyl] oxime
The title compound is prepared by the reaction of O-[2-[(2,6-dichloro-3-methylphenyl)amino]phenylmethyl]hydroxylamine, prepared as in Example 1, steps 1-3, with 2,3-dihydroxypropionaldehyde.

reactant | O-[2-[(2,6-dichloro-3-methylphenyl)amino]phenylmethyl]hydroxylamine | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)CON | C14H14Cl2N2O
reactant | 2,3-dihydroxypropionaldehyde | OC(C=O)CO | C3H6O3
product | 2,3-dihydroxypropionaldehyde-O-[2-[(2,6-dichloro-3-methylphenyl)amino]phenymethyl] oxime | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)CON=CC(CO)O | C17H18Cl2N2O3
